US06242601B1
A suspension of 8.57 g of ethyl m-benzyloxybenzimidate tetrafluoroborate in ethanol (120 ml) was cooled to −70° C. and then treated with liquid ammonia (100 ml). The cooling bath was removed and the reaction mixture stirred for 69 h until the reaction was complete (TLC analysis). The solvent was removed in vacuo to give the desired m-benzyloxybenzamidine tetrafluoroborate as a white solid, mp 125°-127° C., that was essentially pure and used without further purification in the next step.

reactant | ethyl m-benzyloxybenzimidate tetrafluoroborate | 8.57 g | F[B-](F)(F)F.C(C1=CC=CC=C1)OC=1C=C(C(OCC)=N)C=CC1
reactant | ammonia | 100 ml | N | H3N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | m-benzyloxybenzamidine tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)OC=1C=C(C(=N)N)C=CC1 | InChI=1S/C14H14N2O.BF4/c15-14(16)12-7-4-8-13(9-12)17-10-11-5-2-1-3-6-11;2-1(3,4)5/h1-9H,10H2,(H3,15,16);/q;-1
